US05134142
A mixture of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxamide (2.7 g) and methanesulfonyl chloride (3.4 ml) in pyridine (25 ml) was stirred at 50° C. for 6 hours. The solvent was evaporated, and ethyl acetate and water were added to the residue. The precipitates were filtered and washed with water and ethyl acetate. The filtrate was separated, and the organic layer was washed with dilute hydrochloric acid, dried and concentrated to dryness. The residue and the former precipitates were combined and recrystallized from a mixture of ethanol and ethyl acetate to give colorless crystals of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile (2.4 g).

reactant | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxamide | 2.7 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)N | C17H14FN3O3S
reactant | methanesulfonyl chloride | 3.4 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carbonitrile | 2.4 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C#N | C17H12FN3O2S
